US08980887B2
N-ethyl-N-(3-pyridinylmethyl)-2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride (Compound 3)
According to the method of Example 14, 2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid and N-(3-pyridinylmethyl)ethylamine were used as raw materials for synthesis, to obtain light yellow solid powder, yield 69.5%. m.p. 236-238° C., ESI-MS m/z: 420[M+H]+, 1H NMR(D2O, 400 MHz)δ: 0.95(t, 0.7H, J=7.00 Hz), 1.11(t, 2.3H, J=7.00 Hz), 2.39(s, 2.3H), 2.40(s, 0.7H), 3.27(q, 0.5H, J=7.00 Hz), 3.48(q, 1.5H, J=7.00 Hz), 4.13(s, 0.5H), 4.32(s, 1.5H), 4.60(s, 1.5H), 4.71(s, 0.5H), 7.15-7.22(m, 1H), 7.32-7.44(m, 4H), 7.51(s, 1H), 7.84(m, 1H), 8.12-8.14(m, 1H), 8.26(m, 1H), 8.52-8.53(m, 2H).

reactant | 2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid | ClC1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C)C1CC(=O)O | C16H13ClN2O2
reactant | N-(3-pyridinylmethyl)ethylamine | N1=CC(=CC=C1)CNCC | C8H12N2
product | N-ethyl-N-(3-pyridinylmethyl)-2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride | yield 69.5% | Cl.C(C)N(C(CC1=C(N=C2N1C=CC(=C2)C)C2=CC=C(C=C2)Cl)=O)CC=2C=NC=CC2 | InChI=1S/C24H23ClN4O.ClH/c1-3-28(16-18-5-4-11-26-15-18)23(30)14-21-24(19-6-8-20(25)9-7-19)27-22-13-17(2)10-12-29(21)22;/h4-13,15H,3,14,16H2,1-2H3;1H
